US06166218
5-n-Butylthio-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole
5-Chloro-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole (38.1 g, 0.08 mol), n-butyl mercaptan (9 g, 0.10 mol), potassium hydroxide (10.1 g, 0.18 mol) and N-methylpyrrolidone (99 g, 1.0 mol) are charged to a reactor and heated to 170° C. The reaction mass is held at 170° C. with vigorous stirring for five hours. The reaction is judged as complete using thin layer chromatogrphy. The temperature is reduced to 5° C. and 100 mL of aqueous 2N hydrochloric acid are then added to the reactor. The liquid is decanted and the solids are dissolved in ethyl acetate. The organic layer is washed with aqueous 2N hydrochloric acid followed by water. The ethyl acetate is stripped off and the product is crystallized from ethanol and toluene. The title compound is obtained as a yellow crystalline product in 83% yield. The structure is verified by 1Hnmr.

reactant | 5-Chloro-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole | 0.08 mol, 38.1 g | ClC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)C2=CC=CC=C2)O)C=C1 | C29H34ClN3O
reactant | n-butyl mercaptan | 0.10 mol, 9 g | C(CCC)S | C4H10S
reactant | potassium hydroxide | 0.18 mol, 10.1 g | [OH-].[K+]
reactant | N-methylpyrrolidone | 1.0 mol, 99 g | CN1C(CCC1)=O | C5H9NO
reactant | hydrochloric acid | 2N | Cl | ClH
product | 5-n-Butylthio-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole | 83% yield | C(CCC)SC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)C2=CC=CC=C2)O)C=C1 | C33H43N3OS
